US09259426B2
4-{[6-bromo-4-(2,2,2-trifluoro-ethylamino)-quinazolin-2-ylamino]-methyl}-benzenesulfonamide
6-Bromo-2-methanesulfonyl-quinazolin-4-yl)-(2,2,2-trifluoro-ethyl)-amine was reacted with 4-Aminomethyl-benzenesulfonamide in a manner analogous to 6-Bromo-N2-(4-fluoro-benzyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine as described in Example 49. The product was characterized as follows: MS (m/z) 490 [M+H]+; HPLC Rt=1.90 minutes (Method B).

reactant | (2,2,2-trifluoro-ethyl)-amine | FC(CN)(F)F | C2H4F3N
reactant | 4-Aminomethyl-benzenesulfonamide | NCC1=CC=C(C=C1)S(=O)(=O)N | C7H10N2O2S
reactant | 6-Bromo-N2-(4-fluoro-benzyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine | BrC=1C=C2C(=NC(=NC2=CC1)NCC1=CC=C(C=C1)F)NCC(F)(F)F | C17H13BrF4N4
product | 4-{[6-bromo-4-(2,2,2-trifluoro-ethylamino)-quinazolin-2-ylamino]-methyl}-benzenesulfonamide | BrC=1C=C2C(=NC(=NC2=CC1)NCC1=CC=C(C=C1)S(=O)(=O)N)NCC(F)(F)F | C17H15BrF3N5O2S
